US05006157
Preparation of 1-(3-chloro-α,α-dimethylbenzyl)-4-methyl-3-phenyl-3-pyrrolin-2-one (Compound No. 88)
34.4 g (0.1 mol) of N-(3-chloro-α,α-dimethylbenzyl)-N-(2-oxopropyl)phenylacetamide prepared in accordance with the method of Reference Example 6, was dissolved in 200 ml of ethanol, and 0.5 (0.009 mol) of sodium hydroxide powder was added thereto. The mixture was refluxed under heating for 10 minutes. Then, the solvent was distilled off under reduced pressure, and then water was added thereto. The mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure, followed by purification by silica gel column chromatography (n-hexane/ethyl acetate) to obtain 21.2 g (yield: 65.2%) of the desired compound.

reactant | N-(3-chloro-α,α-dimethylbenzyl)-N-(2-oxopropyl)phenylacetamide | 0.1 mol, 34.4 g | ClC=1C=C(C(C)(C)N(C(CC2=CC=CC=C2)=O)CC(C)=O)C=CC1 | C20H22ClNO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-(3-chloro-α,α-dimethylbenzyl)-4-methyl-3-phenyl-3-pyrrolin-2-one | 21.2 g, yield: 65.2% | ClC=1C=C(C(C)(C)N2C(C(=C(C2)C)C2=CC=CC=C2)=O)C=CC1 | C20H20ClNO
